US08168658B2
To a solution of tert-butyl 4-[2-methoxy-1-({[(methylamino)carbonyl]amino}methyl)-2-oxoethyl]benzoate (760 mg, 2.26 mmol) in CH2Cl2 (20 mL) was added trifluoroacetic acid (5 mL), and the reaction was stirred at room temperature for 2 h. The solution was evaporated to dryness to yield 4-[2-methoxy-1-({[(methylamino)carbonyl]amino}methyl)-2-oxoethyl]benzoic acid as an off-white powder that was carried on without further purification. MS (ESI) calcd [M+H]+281.1, found 281.1.

reactant | tert-butyl 4-[2-methoxy-1-({[(methylamino)carbonyl]amino}methyl)-2-oxoethyl]benzoate | 2.26 mmol, 760 mg | COC(C(CNC(=O)NC)C1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C17H24N2O5
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-methoxy-1-({[(methylamino)carbonyl]amino}methyl)-2-oxoethyl]benzoic acid | COC(C(CNC(=O)NC)C1=CC=C(C(=O)O)C=C1)=O | C13H16N2O5
